US08008283B2
In a similar manner to Example 6, piretanide can be reacted with 2-chloro-N,N-diethylacetamide, triethylamine and sodium iodide in dimethylformamide (DMF) to yield N,N-diethylaminocarbonylmethyl 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate.

reactant | piretanide | C=1C=CC(=CC1)OC=2C(=CC(=CC2S(=O)(=O)N)C(=O)O)N3CCCC3 | C17H18N2O5S
reactant | 2-chloro-N,N-diethylacetamide | ClCC(=O)N(CC)CC | C6H12ClNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | [I-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N,N-diethylaminocarbonylmethyl 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate | NS(=O)(=O)C=1C=C(C(=O)OCC(=O)N(CC)CC)C=C(C1OC1=CC=CC=C1)N1CCCC1 | C23H29N3O6S
